US07563805B2
tert-Butyl(3S)-1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate
To a solution of tert-butyl(3S)-4-hydroxy-3-methyl-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate (1.49 g, 4.88 mmol) in ethanol (30 mL), 1N hydrochloric acid (5.12 mL, 5.12 mmol) was added at room temperature, and the mixture was stirred at 10 minutes. 10% palladium-carbon catalyst (1.40 g) was added to the reaction mixture, and the suspension was stirred in an oil bath at 40° C. for 2 hours in hydrogen atmosphere at normal pressure. After filtering the reaction mixture and concentrating the filtrate, tetrahydrofuran (20 mL), water (20 mL), and sodium hydrogencarbonate (2.05 g, 24.4 mmol) were added to the residue, and benzyloxycarbonyl chloride (836 μl, 5.86 mmol) was further added in an ice bath. The reaction mixture was stirred at room temperature for 2 hours, and extracted with ethyl acetate (100 mL ×2). The resulting organic layer was washed with saturated aqueous solution of sodium chloride (20 mL), and dried with anhydrous sodium sulfate. After the filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 2:1→1:2) to obtain 1.48 g (90%) of the title compound as a colorless oily substance.

reactant | tert-butyl(3S)-4-hydroxy-3-methyl-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 4.88 mmol, 1.49 g | OC1[C@](CN(C1)[C@H](C)C1=CC=CC=C1)(C(=O)OC(C)(C)C)C | C18H27NO3
reactant | hydrochloric acid | 5.12 mmol, 1N, 5.12 mL | Cl | ClH
reactant | sodium hydrogencarbonate | 24.4 mmol, 2.05 g | C(O)([O-])=O.[Na+]
reactant | benzyloxycarbonyl chloride | 5.86 mmol, 836 μl | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 1.40 g | [C].[Pd]
solvent | hydrogen | [H][H] | H2
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl(3S)-1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate | 1.48 g, 90% | C(C1=CC=CC=C1)OC(=O)N1C[C@@](C(C1)O)(C(=O)OC(C)(C)C)C | C18H25NO5
